US07888376B2
1-Cyclopentyl-3-(1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(6-methoxypyridin-2-yl)-2-phenylethyl)urea (25 mg, 0.049 mmol) was stirred in CHCl3 (1 mL) in a pyrex tube at room temperature. TMSI (0.04 mL) was added and the reaction mixture was refluxed for 3 h. Additional TMSI (0.04 mL) was added. The mixture was refluxed for an additional two hours. The mixture was cooled to room temperature and MeOH (1 mL) was added. The reaction mixture was concentrated. The residue was purified by flash chromatography (silica gel, hexanes/EtOAc, came out 100% EtOAc) to give 1-cyclopentyl-3-(1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(6-oxo-1,6-dihydropyridin-2-yl)-2-phenylethyl)urea (13 mg, yield: 54%) as a white solid. LC-MS ESI (10-90% MeOH in H2O with 0.1% TFA in a 4-min run), retention time=3.75 min, 488.12 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm 12.06 (s, br, 1H), 7.52 (dd, J=8.8, 7.3 Hz, 1 H), 7.19 (t, J=7.0 Hz, 2 H), 7.12 (t, J=7.3 Hz, 2 H), 6.94 (s, br, 1 H), 6.83 (d, J=10 Hz, 1 H), 6.68 (d, J=7.3 Hz, 2 H), 6.61 (d, J=7.1 Hz, 1 H), 6.30 (d, J=8.8 Hz, 1 H), 6.15 (s, br, 1 H), 5.22 (s, br, 1 H), 4.32 (d, J=12.2 Hz, 1 H), 3.88-3.98 (m, 1 H), 3.19 (d, J=12.7 Hz, 1 H), 1.92-1.86 (m, 1 H), 1.83-1.74 (m, 1 H) 1.65-1.48 (m, 4 H), 1.43-1.35 (m, 1 H) 1.25-1.18 (m, 1 H).

reactant | 1-Cyclopentyl-3-(1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(6-methoxypyridin-2-yl)-2-phenylethyl)urea | 0.049 mmol, 25 mg | C1(CCCC1)NC(=O)NC(CC1=CC=CC=C1)(C1=NC(=CC=C1)OC)C1=CC(=CC(=C1)C(F)(F)F)F | C27H27F4N3O2
reactant | TMSI | 0.04 mL | [Si](C)(C)(C)I | C3H9ISi
reactant | TMSI | 0.04 mL | [Si](C)(C)(C)I | C3H9ISi
reactant | MeOH | 1 mL | CO | CH4O
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-cyclopentyl-3-(1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(6-oxo-1,6-dihydropyridin-2-yl)-2-phenylethyl)urea | 13 mg, yield: 54% | C1(CCCC1)NC(=O)NC(CC1=CC=CC=C1)(C=1NC(C=CC1)=O)C1=CC(=CC(=C1)C(F)(F)F)F | C26H25F4N3O2
